Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w/ hx of hypothyroidism, dementia (mild) who was transferred 
from ___ after an unwitnessed fall while standing at her 
assisted living this morning. Patient endorses positive head 
strike and no LOC. There was blood on ground from scalp 
abrasion. Transferred to ___ where they did CXR which 
demonstrated left ___ rib fracture. Labs benign. Denies 
sensation of palpation,
nausea, warmth, dizziness, or seizure activity prior to fall. No 
CP, SB, or abdominal discomfort. She has fallen about 5 times 
over last year per daughter report. No history of CAD or 
pulmonary disease. No on any blood thinners. Does report pain in 
left anterior chest, shoulder, and lumbar spine. No f/c, n/e,
diarrhea/constipation, or productive cough/dysuria. Currently 
lives in assisted living and is able to walk without walker or 
assistance. No concern for obstruction or failure to thrive. 
 
Past Medical History:
PMH: Anxiety, hypothyroid, dementia  
PSH:Left knee replacement, shoulder surgery  

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Admission Physical Exam:
AAOx person, place, year. Month: ___. Able to count days 
of
the week backwards. Daughter notes this is her baseline.
HEENT: Small abrasion on left anterior head. No active bleeding. 

Lungs: CTAB, except for minimal crackles in bilateral bases. 
Abdom: Distended, non tender. +bowel sounds.
Ext: No edema, warm, no lac.
MSK: Non tender C, T, L spine. Anterior lower LEFT ribs with
exquisite tenderness and small area of ecchymosis. 

Discharge Physical Exam:
VS: T 98.0 PO BP 144 / 73 R Lying HR 70 RR 22 O2 Sat 93 Ra 
HEENT: PERRL, EOMI. small left anterior head abrasion.
CV: RRR
Pulm: Clear anteriorly with crackles bilateral bases. Tender to 
palp Left chest wall. 
Abd: Soft, non-tender, non-distended. Active bowel sounds.
Ext: Warm and dry. 

 
Pertinent Results:
___ 05:56AM BLOOD WBC-11.1* RBC-4.18 Hgb-13.7 Hct-41.2 
MCV-99* MCH-32.8* MCHC-33.3 RDW-15.1 RDWSD-55.2* Plt ___
___ 01:10PM BLOOD WBC-11.8* RBC-4.24 Hgb-13.9 Hct-42.2 
MCV-100* MCH-32.8* MCHC-32.9 RDW-15.4 RDWSD-56.8* Plt ___
___ 01:10PM BLOOD Neuts-80.8* Lymphs-10.7* Monos-7.8 
Eos-0.0* Baso-0.3 Im ___ AbsNeut-9.54* AbsLymp-1.26 
AbsMono-0.92* AbsEos-0.00* AbsBaso-0.03
___ 05:56AM BLOOD Glucose-128* UreaN-13 Creat-0.7 Na-135 
K-5.0 Cl-98 HCO3-27 AnGap-15
___ 01:10PM BLOOD Glucose-118* UreaN-17 Creat-0.9 Na-138 
K-5.1 Cl-99 HCO3-26 AnGap-18

___ CT Torso
1. Fractures of the third through seventh ribs with displacement 
of the 
fractures in the fourth through sixth ribs. Non-displaced 
fractures of the 
posterior fourth through sixth and eighth ribs on the. No 
pneumothorax or 
hemothorax. No acute fracture of the spine. Anterolisthesis of 
L3 over L4 is likely chronic in nature. 
2. Mild bibasilar atelectasis. Trace left pleural effusion with 
adjacent 
consolidation, likely due to aforementioned atelectasis, 
although a small 
amount aspiration or pulmonary contusion is certainly possible. 
3. Multi-level degenerative changes of the thoracolumbar spine 
with prior 
kyphoplasty/vertebroplasty and grade I anterolisthesis of L3 on 
L4 without 
evidence of acute spine fracture. 
4. Cholelitathiasis without cholecystitis. 

 
Brief Hospital Course:
Ms. ___ is an ___ yo F admitted to the Acute Care Trauma 
Surgery service on ___ after a fall from standing. She 
initially presented to ___ where chest xray 
demonstrated left rib fractures. She underwent CT torso which 
showed left ___ rib fractures. She was admitted to the floor 
for pain management and respiratory monitoring.

She remained alert and oriented to baseline mental status 
confirmed with family. She remained hemodynamically stable with 
oxygen saturation >92% on room air. She was given a regular diet 
with good tolerability. Urine output was monitored and remained 
adequate. Family at bedside and adamant that patient is 
discharged home and that her functioning is at baseline. 
Physical therapy assessed the patient and patient able to 
ambulate independently in halls and preform activities of daily 
living Family amenable to continued physical therapy at home. 
Patient lives in independent living section of larger facility 
and has help at home.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable. The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan. 
 
Medications on Admission:
Levothyroxine 50 mcg daily, Montelukast 10 mg daily , donapazil 
10 mg PO daily
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H  
2.  Docusate Sodium 100 mg PO BID  
3.  Lidocaine 5% Patch 1 PTCH TD QAM rib pain 
RX *lidocaine 5 % apply daily in AM daily Disp #*30 Patch 
Refills:*0 
4.  Senna 8.6 mg PO BID:PRN constipation  
5.  Donepezil 10 mg PO QHS  
6.  Levothyroxine Sodium 50 mcg PO DAILY  
7.  Montelukast 10 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Fractures of the ___ ribs with displacement of the ___ 
ribs.
Non-displaced fractures of the posterior ___ and 8th rib.

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the Acute Care Trauma Surgery Service on 
___ after a fall. You were found to have left sided rib 
fractures. You were admitted to the hospital for pain control 
and close monitoring of your breathing. You are doing well, pain 
is controlled, and you are ready to be discharged back to your 
home with physical therapy. 

You and your family felt ready to leave before you were seen by 
the trauma attending doctor inpatient and chose not to wait 
before leaving. You were able to ambulate independently and 
preform activities of daily living independently and refused a 
formal physical therapy consultation. 

Please note the following discharge instructions:

* Your injury caused Left sided rib fractures which can cause 
severe pain and subsequently cause you to take shallow breaths 
because of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

*Please take all previously prescribed medications as directed. 
No changes made to your home medications. 

 
Followup Instructions:
___